US07169810B2
(c) Ethyl (2S)-3-[4-(3-{4-[(tert-butoxycarbonyl)amino]phenyl}propoxy)phenyl]-2-ethoxypropanoate
3-{4-[(tert-Butoxycarbonyl)amino]phenyl}propyl methanesulfonate (360 mg, 1.093 mmol) and (S)-2-Ethoxy-3-(4-hydroxyphenyl)propanoic acid ethyl ester (260 mg, 1.093 mmol) were mixed in acetonitrile (30 ml). Potassium carbonate (anhydrous, 226.6 mg 1.639 mmol) was added. The mixture was heated to reflux overnight and thereafter it was evaporated to dry. Ethyl acetate (20 ml) and water (5 ml) were added into the residue. The two phases were separated and the water phase was extracted with ethyl acetate (10 ml×2). The organic phases were combined and washed with 0.1 M sodium hydroxide aqueous solution, water and brine and dried with magnesium sulfate. The solvent was evaporated in vacuum and an oil mixture was left. Column chromatography of the oil mixture on silica gel using ethyl acetate/heptane (20:80) as eluant gave the desired product (389 mg), yield 75.5%.

reactant | 3-{4-[(tert-Butoxycarbonyl)amino]phenyl}propyl methanesulfonate | 1.093 mmol, 360 mg | CS(=O)(=O)OCCCC1=CC=C(C=C1)NC(=O)OC(C)(C)C | C15H23NO5S
reactant | (S)-2-Ethoxy-3-(4-hydroxyphenyl)propanoic acid ethyl ester | 1.093 mmol, 260 mg | C(C)OC([C@H](CC1=CC=C(C=C1)O)OCC)=O | C13H18O4
reactant | Potassium carbonate | 1.639 mmol, 226.6 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | Ethyl (2S)-3-[4-(3-{4-[(tert-butoxycarbonyl)amino]phenyl}propoxy)phenyl]-2-ethoxypropanoate | 389 mg, yield 75.5% | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)CCCOC1=CC=C(C=C1)C[C@@H](C(=O)OCC)OCC | C27H37NO6
